US08664238B2
Preparation of 2-diisopropylamino chloroethane hydrochloride (VIIk)
3.6 ml (53.6 mmol) of 2-chlorohydrin was added dropwise into 5 ml (35.7 mmol) of diisopropylamine. The mixture was heated to the reflux temperature and reacted for 5 h. After cooling to room temperature, 8% KOH and 10 ml benzene were added. The mixture was stirred and the benzene layer separated was washed with a saturated saline solution, then dried over anhydrous sodium sulfate and filtrated. Into the filtrate, 5.2 ml (71.3 mmol) of thionyl chloride was added dropwise. The mixture was reacted for 12 h at room temperature, then concentrated to dry in a reduced pressure to obtain 2.73 g white solid with the yield of 38%. m.p. 129-131° C.

reactant | diisopropylamine | 35.7 mmol, 5 ml | C(C)(C)NC(C)C | C6H15N
reactant | KOH | [OH-].[K+]
reactant | thionyl chloride | 71.3 mmol, 5.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-diisopropylamino chloroethane hydrochloride | 2.73 g, yield of 38% | Cl.C(C)(C)N(CCCl)C(C)C | InChI=1S/C8H18ClN.ClH/c1-7(2)10(6-5-9)8(3)4;/h7-8H,5-6H2,1-4H3;1H
